US04898874
2-Amino-3-(4-chlorobenzoyl)benzeneacetonitrile
A 280 g sample of a commercial Raney nickel preparation was washed twice with water, titrated to a pH of 7 with acetic acid, washed twice with water and three times with tetrahydrofuran. The Raney nickel preparation was then slurried in 300 ml of tetrahydrofuran and added to a stirred solution of 34.4 g (0.11 mole) of 2-amino-3-(4-chlorobenzoyl)-α-(methylthio)benzeneacetonitrile in 250 ml of tetrahydrofuran. The resulting mixture was stirred at ambient temperature for 10 minutes, filtered through Celite, and the filtrate concentrated to give a solid as a residue. This solid residue was recrystallized from acetonitrile to yield 16.4 g (56%) of the titled compound as brown crystals, m.p. 181°-2° C.

reactant | 2-amino-3-(4-chlorobenzoyl)-α-(methylthio)benzeneacetonitrile | 0.11 mole, 34.4 g | NC1=C(C=CC=C1C(C1=CC=C(C=C1)Cl)=O)C(C#N)SC | C16H13ClN2OS
catalyst | Raney nickel | [Ni] | Ni
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 2-Amino-3-(4-chlorobenzoyl)benzeneacetonitrile | 16.4 g, 56% | NC1=C(C=CC=C1C(C1=CC=C(C=C1)Cl)=O)CC#N | C15H11ClN2O
